US04125612
1-Cinnamyl-4-[1-(4'-chloro[1,1']biphenyl-4-yl)ethyl]piperazine dihydrochloride
To a stirred mixture of 8g of 1[1-(4'-chloro[1,1']biphenyl-4-yl)ethyl]piperazine, 2.7g of sodium bicarbonate in 75 ml of absolute ethanol, add in a dropwise fashion 5.25g of cinnamyl bromide. Reflux the reaction mixture for 6 hours, concentrate in vacuo, and treat with 50 ml of 10% hydrochloric acid solution. Filter the dihydrochloride and recrystallize from 80% ethanol, m.p. 273°-275°. The free base has a melting point of 108°-109° after recrystallization from acetonitrile.

reactant | 1[1-(4'-chloro[1,1']biphenyl-4-yl)ethyl]piperazine | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)N1CCNCC1 | C18H21ClN2
reactant | sodium bicarbonate | 2.7g | C([O-])(O)=O.[Na+]
reactant | cinnamyl bromide | 5.25g | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 1-Cinnamyl-4-[1-(4'-chloro[1,1']biphenyl-4-yl)ethyl]piperazine dihydrochloride | Cl.Cl.C(C=CC1=CC=CC=C1)N1CCN(CC1)C(C)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | InChI=1S/C27H29ClN2.2ClH/c1-22(24-9-11-25(12-10-24)26-13-15-27(28)16-14-26)30-20-18-29(19-21-30)17-5-8-23-6-3-2-4-7-23;;/h2-16,22H,17-21H2,1H3;2*1H
